### PR TITLE
feat(Combinatorics/SimpleGraph/Hasse): Define the Eulerian path of a path graph

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
Such statements are left for a future PR, since they add imports so we probably want to split them into a separate file:
```lean
theorem IsEulerian.ofPathGraph : ofPathGraph n |>.IsEulerian := sorry

theorem IsHamiltonian.ofPathGraph : ofPathGraph n |>.IsHamiltonian := sorry

theorem isChordless_ofPathGraph : ofPathGraph n |>.IsChordless :=
  IsEulerian.ofPathGraph n |>.isChordless

theorem pathGraph_isIndContained_iff :
    pathGraph (n + 1) ⊴ G ↔
      (∃ (u v : V) (p : G.Walk u v), p.IsPath ∧ p.length = n ∧ p.IsChordless) := sorry
```

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 1]
```diff
@@ -113,4 +120,33 @@ theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
   ext u v
   fin_cases u <;> fin_cases v <;> simp [pathGraph, ← Fin.coe_covBy_iff, covBy_iff_add_one_eq]
 
+namespace Walk
+
+variable (n : ℕ)
+
+/-- The walk in a path graph going through all vertices in order -/
+def ofPathGraph (n : ℕ) : (pathGraph (n + 1)).Walk 0 (Fin.last n) :=
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:150]: Just because you define the `variable` block directly above
```suggestion
def ofPathGraph : (pathGraph (n + 1)).Walk 0 (Fin.last n) :=
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean [hunk 2]
```diff
@@ -113,4 +120,33 @@ theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
...
+  | zero => rfl
+  | succ n ih =>
+    rw [ofPathGraph, support_cons, support_map, ih]
+    exact List.finRange_succ.symm
+
+@[simp]
+theorem length_ofPathGraph : (ofPathGraph n).length = n := by
+  grind [support_ofPathGraph, length_support]
+
+theorem IsPath.ofPathGraph : ofPathGraph n |>.IsPath :=
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: I don't think this belongs in the `IsPath` namespace.
```suggestion
theorem isPath_ofPathGraph : ofPathGraph n |>.IsPath :=
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:150]: `variable` doesn't work with induction, this change makes the induction fail

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean (hunk 2 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: I disagree, path graphs are very related to `IsPath` and this allows for dot notation when the expected type is `IsPath`

Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: I'm not sure I follow, how can dot notation be used here when IsPath is the conclusion rather than a hypothesis?

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: Here's a straightforward example:
```lean
def myPath : (pathGraph 3).Path 0 2 := ⟨.ofPathGraph _, .ofPathGraph _⟩
```
and here's a slightly less trivial example that might occur "in the wild":
```lean
namespace SimpleGraph

theorem IsAcyclic.pathGraph (n : ℕ) : (pathGraph n).IsAcyclic := sorry

theorem foo : s(0, 1) ∈ (Walk.ofPathGraph 1).edges := by
  have := IsAcyclic.path_concat
    (.pathGraph 2)
    (.takeUntil (.ofPathGraph 1) (u := 0) (by simp))
    (.ofPathGraph 1)
    (by grind [pathGraph_adj, CovBy])
    (by simp)
  rw [this]
  simp

end SimpleGraph
```

Comment (vlad902) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: This still feels backwards to me, where I would flip the names, e.g. `ofPathGraph.isPath` instead and maybe make `n` implicit, but yeah I'm happy to let the reviewers judge--I don't feel like I have a good enough feel for API design.

Comment (vihdzp) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean]: I've seen this pattern before, I have no qualms with it.

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean (hunk 1 above)
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean:150]: Can you generalise to the path going from `i : Fin n` to `j : Fin n`? It is more syntactically general and also we need it in ProofBench

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean (hunk 2 above)
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hasse.lean]:
```suggestion
protected theorem IsPath.ofPathGraph : ofPathGraph n |>.IsPath :=
```

File: Mathlib/Combinatorics/SimpleGraph/Hasse.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:150]: That sounds like double recursion, and I'm not sure how to make it work.
Why not use `ofPathGraph n |>.drop i |>.take (j + 1 - i)`?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:150]: > That sounds like double recursion, and I'm not sure how to make it work.

Here is a (not standalone) code snippet for the quarter grid version we used in ProofBench:
```
/-- The horizontal walk from `(x₁, y)` to `(x₂, y)` in the quarter grid. -/
def quarterGridWalkH (y : ℕ) : ∀ x₁ x₂ : ℕ, quarterGrid.Walk (x₁, y) (x₂, y)
  | 0, 0 => .nil
  | 0, x₂ + 1 => .concat (quarterGridWalkH y 0 x₂) (by simp)
  | x₁ + 1, 0 => .cons (by simp) (quarterGridWalkH y x₁ 0)
  | x₁ + 1, x₂ + 1 => (quarterGridWalkH y x₁ x₂).map ⟨Prod.map (· + 1) id, by simp⟩
```

> Why not use `ofPathGraph n |>.drop i |>.take (j + 1 - i)`?

because this path is a common operation and adding vertices to remove them afterwards is less computationally efficient than not adding them in the first place. Also note that your definition doesn't handle the case `i > j` correctly.

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:148]: > your definition doesn't handle the case `i > j` correctly

What would be the correct way to handle it? Returning the reverse walk seems slightly unreasonable (would introduce `ite` in the `def`), so would you expect `.nil (v := i)` or `.nil (v := j)` perhaps?

Also I couldn't find a way to get `Icc i j` as a `List (Fin n)` (we have only `List.range'` and `List.finRange`). What would you suggest?

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:148]: The correct way to handle it is my code snippet above. Simply replace `quarterGrid` by `pathGraph` and remove one of the arguments

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:148]: Added `ofPathGraph'` (we need to brainstorm better names, but I definitely want the full walk as a separate `def`).
Wdyt? Changing `ofPathGraph` to use it breaks all the proofs and I haven't been able to fix them, I think Lean doesn't like my pattern matching. Do you know what's wrong? Having `NeZero n` didn't seem to help.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Hasse.lean:148]: Of course the point is that you should prove the more general results about the more general definition first:
```
/-- The walk in a path graph going from `i` to `j`. -/
protected def pathGraph : ∀ {n : ℕ} i j, (pathGraph n).Walk i j
  | n, ⟨0, _⟩, ⟨0, _⟩ => nil
  | n, ⟨0, h₀⟩, ⟨j + 1, _⟩ => .concat (.pathGraph ⟨0, h₀⟩ ⟨j, by lia⟩) <| by simp [pathGraph_adj]
  | n, ⟨i + 1, _⟩, ⟨0, h₀⟩ => .cons (by simp [pathGraph_adj]) <| .pathGraph ⟨i, by lia⟩ ⟨0, h₀⟩
  | n + 1, ⟨i + 1, _⟩, ⟨j + 1, _⟩ =>
      .map (Embedding.hasse (Fin.succOrderEmb _) <| by
        simp [← Set.Iio_union_Ioi, Set.ordConnected_Ioi]).toHom <|
          .pathGraph ⟨i, by lia⟩ ⟨j, by lia⟩

set_option backward.isDefEq.respectTransparency false in
@[simp]
theorem support_pathGraph : ∀ {n} (i j : Fin n), (Walk.pathGraph i j).support = sorry
  | n, ⟨0, _⟩, ⟨0, _⟩ => by simp [Walk.pathGraph]; sorry
  | n, ⟨0, h₀⟩, ⟨j + 1, _⟩ => by simp [Walk.pathGraph]; sorry
  | n, ⟨i + 1, _⟩, ⟨0, h₀⟩ => by simp [Walk.pathGraph]; sorry
  | n + 1, ⟨i + 1, _⟩, ⟨j + 1, _⟩ => by simp [Walk.pathGraph]; sorry

@[simp]
theorem length_pathGraph : ∀ {n} (i j : Fin n), (Walk.pathGraph i j).length = sorry := by
  sorry
```
I suggest you name the RHS of `support_pathGraph` `List.uIccFin`. We probably also want `Nat` and `Int` versions (at which point we might want to mediate it through a typeclass), but for now the `Fin` version is enough.
